US06660744B1
A mixture of 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (0.10 g, 0.00028 mol), 3-(1H-4-imidazolyl)propanoic acid (0.050 g, 0.00035 mol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.0068 g, 0.00035 mol), N,N-diisopropylethylamine (0.068 g, 0.00053 mol) and 1-hydroxy-7-azabenzotriazole (0.038 g, 0.00028 mol) in anhydrous N,N-dimethylfornamide (13 mL) was stirred for eighteen hours at room temperature. The solvent was removed under reduced pressure. The residue was dissolved in dichloromethane (5 mL) and washed with water (2 mL). The solvent was removed under reduced pressure. The residue was purified by RP-HPLC (Hypersilprep HS C18, 8 μm, 250×21.1 mm; 5%-100% over 35 min with 0.1 M ammonium acetate, 21 mL/min) to yield 1-{3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanyl}-3-(1H-4-imidazolyl)-1-propanone (0.040 g, 0.00008 mol).

reactant | 1-(3-azetanyl)-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.00028 mol, 0.10 g | N1CC(C1)N1N=C(C=2C1=NC=NC2N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C20H18N6O
reactant | 3-(1H-4-imidazolyl)propanoic acid | 0.00035 mol, 0.050 g | N1C=NC(=C1)CCC(=O)O | C6H8N2O2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.00035 mol, 0.0068 g | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.00053 mol, 0.068 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-hydroxy-7-azabenzotriazole | 0.00028 mol, 0.038 g | ON1N=NC2=C1N=CC=C2 | C5H4N4O
product | 1-{3-[4-amino-3-(4-phenoxyphenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl]-1-azetanyl}-3-(1H-4-imidazolyl)-1-propanone | 0.00008 mol, 0.040 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CN(C2)C(CCC=2N=CNC2)=O | C26H24N8O2
